US07786120B2
3-(4-(Piperazin-1-yl)styryl)-5-(2-(methylamino)pyrimidin-4-yl)pyridin-2(1H)-one I.4
Pyridine hydrochloride (2 g) was added to tert-butyl 4-(4-((E)-2-(2-methoxy-5-(2-(methylamino)pyrimidin-4-yl)pyridin-3-yl)vinyl)phenyl)piperazine-1-carboxylate (168 mg, 0.33 mmol) and the mixture was heated at 150° C. for 30 min. The reaction mixture was dissolved in MeOH (30 mL) and solid sodium bicarbonate was added until bubbling ceased. The suspension was filtered and the filtrate was concentrated. Purification by column chromatography (DCM/MeOH/aq. NH3 gradient) gave the title compound (122 mg, 94%) as a yellow solid.

reactant | Pyridine hydrochloride | 2 g | Cl.N1=CC=CC=C1
reactant | tert-butyl 4-(4-((E)-2-(2-methoxy-5-(2-(methylamino)pyrimidin-4-yl)pyridin-3-yl)vinyl)phenyl)piperazine-1-carboxylate | 0.33 mmol, 168 mg | COC1=NC=C(C=C1/C=C/C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=NC(=NC=C1)NC | C28H34N6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | 3-(4-(Piperazin-1-yl)styryl)-5-(2-(methylamino)pyrimidin-4-yl)pyridin-2(1H)-one | 122 mg, 94% | N1(CCNCC1)C1=CC=C(C=CC=2C(NC=C(C2)C2=NC(=NC=C2)NC)=O)C=C1 | C22H24N6O
